US08754100B2
Synthesis of 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanenitrile
Methyl dichlorophosphate (1.9 mL) was added dropwise at 20° C. or less to an ice-cooled solution of 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanoic acid amide (3.0 g) and 1,8-diazabicyclo[5,4,0]undec-7-ene (6.4 mL) in methylene chloride (30 mL). After completion of the dropwise addition, the reaction solution was stirred at room temperature for one hour and 25 minutes. A saturated sodium bicarbonate aqueous solution was added to the reaction solution. After stirring for five minutes, the organic layer was separated. The aqueous layer was reextracted with methylene chloride. The combined organic layers were sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate aqueous solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Wakogel C-200; elution solvent:heptane:ethyl acetate=49:1→19:1) to obtain 2.25 g of the title compound.

reactant | Methyl dichlorophosphate | 1.9 mL | P(=O)(OC)(Cl)Cl | CH3Cl2O2P
reactant | 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanoic acid amide | 3.0 g | ClCCCC(C(=O)N)C1=C(C=C(C=C1)Cl)C(F)(F)F | C12H12Cl2F3NO
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 6.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanenitrile | 2.25 g | ClCCCC(C#N)C1=C(C=C(C=C1)Cl)C(F)(F)F | C12H10Cl2F3N
